US04954502
(1) 2-(3-methoxy-2-pyridinyl)-5-phenylmethyl-(1S,4S)-2,5-diazabicyclo[2.2.1]-heptane
A mixture of 2-bromo-3-methoxy pyridine (9.9 g) and (1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane (10.9 g) was heated at 100° C. in a Parr bomb for 67 h. The reaction mixture was cooled to 23° C., dissolved in CH2Cl2, extracted with 5% NaHCO3, and finally wit:h H2O. The organic layer was dried over K2CO3, filtered, and concentrated under reduced pressure. The crude oil was purified by silica gel chromatography (CH2Cl2 :MeOH; 96:4) to give the desired product (7.93 g, 51%).

reactant | 2-bromo-3-methoxy pyridine | 9.9 g | BrC1=NC=CC=C1OC | C6H6BrNO
reactant | (1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane | 10.9 g | C(C1=CC=CC=C1)N1[C@@H]2CN[C@H](C1)C2 | C12H16N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(3-methoxy-2-pyridinyl)-5-phenylmethyl-(1S,4S)-2,5-diazabicyclo[2.2.1]-heptane | 7.93 g, 51% | COC=1C(=NC=CC1)N1[C@@H]2CN([C@H](C1)C2)CC2=CC=CC=C2 | C18H21N3O
